US08183281B2
a.) 2-tert-Butyl-6-chloro-7-methanesulfonyl-benzooxazole
A solution of 204 mg of Na2SO3 and 409 mg of NaHCO3 in 4 ml H2O is heated to 75° and treated portionwise with 0.5 g of 2-tert-butyl-6-chloro-benzooxazole-7-sulfonyl chloride (US 2007/0249672 page 9). A mixture obtained is heated at 75° for 2 hours and 4 ml of EtOH are added followed by 0.11 ml of iodomethane. A mixture obtained is heated at 90° overnight and allowed to cool to rt. A mixture obtained is extracted with 3×30 ml of EtOAc and the combined organic extracts obtained are washed with brine, dried over MgSO4 and solvent is evaporated. The title compound is obtained.

reactant | Na2SO3 | 204 mg | [O-]S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 409 mg | C(=O)(O)[O-].[Na+]
reactant | 2-tert-butyl-6-chloro-benzooxazole-7-sulfonyl chloride | 0.5 g | C(C)(C)(C)C=1OC2=C(N1)C=CC(=C2S(=O)(=O)Cl)Cl | C11H11Cl2NO3S
reactant | iodomethane | 0.11 ml | IC | CH3I
solvent | H2O | 4 ml | O | H2O
solvent | EtOH | 4 ml | CCO | C2H6O
product | 2-tert-Butyl-6-chloro-7-methanesulfonyl-benzooxazole | C(C)(C)(C)C=1OC2=C(N1)C=CC(=C2S(=O)(=O)C)Cl | C12H14ClNO3S
